US07786129B2
3-{6-[4-(3-chlorophenyl)-piperazine-1-yl]-hexyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydrochloride
The title compound is prepared according to process H starting from 3-(6-bromohexyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(3-chlorophenyl)-piperazine and the reaction mixture is processed according to method 2.

reactant | 3-(6-bromohexyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | BrCCCCCCC1(C(NC2=CC=CC=C12)=O)CC | C16H22BrNO
reactant | 1-(3-chlorophenyl)-piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 3-{6-[4-(3-chlorophenyl)-piperazine-1-yl]-hexyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCCCCC1(C(NC2=CC=CC=C12)=O)CC | InChI=1S/C26H34ClN3O.ClH/c1-2-26(23-12-5-6-13-24(23)28-25(26)31)14-7-3-4-8-15-29-16-18-30(19-17-29)22-11-9-10-21(27)20-22;/h5-6,9-13,20H,2-4,7-8,14-19H2,1H3,(H,28,31);1H
